US08975254B2
c) (S)—N-(1-(3-(4-cyano-3-methylphenyl)-1H-pyrazol-1-yl)propan-2-yl)-3-(pyridin-4-yl)-1H-pyrazole-5-carboxamide
The title compound was synthesized from 5-pyridin-4-yl-4H-pyrazole-3-carboxylic acid (47 mg, 0.25 mmol) and (S)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2-methylbenzonitrile (59 mg, 0.25 mmol) using the method of Example 34(d). Crude product was purified by chromatography (CombiFlash, silica column, eluent: 0-20% MeOH/DCM) to obtain 41 mg (40%) of the title compound. 1H-NMR (400 MHz; MeOD): δ 1.24 (d, 3H), 2.52 (s, 3H), 4.32 (m, 2H), 4.53 (m, 1H), 6.59 (d, 1H), 7.15 (m, 1H), 7.36 (s, 2H), 7.53 (d, 1H), 7.58 (m, 2H), 7.70 (m, 2H), 8.53 (br s, 1H), 8.56 (d, 1H).

reactant | 5-pyridin-4-yl-4H-pyrazole-3-carboxylic acid | 0.25 mmol, 47 mg | N1=CC=C(C=C1)C=1CC(=NN1)C(=O)O | C9H7N3O2
reactant | (S)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2-methylbenzonitrile | 0.25 mmol, 59 mg | N[C@H](CN1N=C(C=C1)C1=CC(=C(C#N)C=C1)C)C | C14H16N4
product | (S)—N-(1-(3-(4-cyano-3-methylphenyl)-1H-pyrazol-1-yl)propan-2-yl)-3-(pyridin-4-yl)-1H-pyrazole-5-carboxamide | 41 mg, 40% | C(#N)C1=C(C=C(C=C1)C1=NN(C=C1)C[C@H](C)NC(=O)C1=CC(=NN1)C1=CC=NC=C1)C | C23H21N7O
